US05536727
Preparation of 4-methyl-5α-4-azaandrostan-3-on-17β-yloxyacetamide
4-Methyl-5α-4-azaandrostan-3-on-17β-yloxyacetic acid (40 mg) and formamide (0.8 ml) were heated at 178°-180° C. under N2 for 18 hours. The mixture was cooled to room temperature and poured onto ice-water. The crude product was extracted with CH2Cl2 and dried (Na2SO4). Removal of solvent gave the crude product which was recrystallized from CH2Cl2 -hexane with trace MeOH to give title product, m.p. 222°-225° C.

reactant | 4-Methyl-5α-4-azaandrostan-3-on-17β-yloxyacetic acid | 40 mg | CN1[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)OCC(=O)O | C21H33NO4
reactant | formamide | 0.8 ml | C(=O)N | CH3NO
product | 4-methyl-5α-4-azaandrostan-3-on-17β-yloxyacetamide | CN1[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)OCC(=O)N | C21H34N2O3
